US07989444B2
2-(1-Methylethyl)-7-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-(1-methylethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.21 mmol) and 3-[(3-chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole and was obtained as a colourless slightly hygroscopic solid (78 μmol).

reactant | 2-(1-methylethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.21 mmol | CC(C)C=1OC2=CC3=C(CCNCC3)C=C2N1 | C14H18N2O
reactant | 3-[(3-chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole | ClCCCSC1=NN=C(N1C)C1=C(N=CO1)C | C10H13ClN4OS
product | 2-(1-Methylethyl)-7-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC(C)C=1OC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C(N=CO3)C)C=C2N1 | InChI=1S/C24H30N6O2S.ClH/c1-15(2)23-26-19-12-17-6-9-30(10-7-18(17)13-20(19)32-23)8-5-11-33-24-28-27-22(29(24)4)21-16(3)25-14-31-21;/h12-15H,5-11H2,1-4H3;1H
